US05869661
Synthesis of 1-ethyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid
A mixture of 2.83 g of 1-ethyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (10 mmol), 1.72 g of anhydrous piperazine (20 mmol), 1.04 g of trimethoxyborane (10 mmol) and 15 ml of acetonitrile was refluxed with heating for 4.5 hours. The reaction solution was cooled to room temperature, 30 ml of water was added therein, and separated crystals were filtered and dried to obtain 2.00 g of the objective compound.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 10 mmol, 2.83 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C13H11F2NO4
reactant | piperazine | 20 mmol, 1.72 g | N1CCNCC1 | C4H10N2
reactant | trimethoxyborane | 10 mmol, 1.04 g | COB(OC)OC | C3H9BO3
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
product | 1-ethyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 2.00 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CCNCC1)F)=O)C(=O)O | C17H20FN3O4
